US08609727B2
tert-Butyl 4-(2-hydroxyethyl)benzoate
30.47 ml (30.47 mmol) of 1 M borane-THF complex solution are slowly added dropwise to a solution of 3.6 g (15.24 mmol) of [4-(tert-butoxycarbonyl)phenyl]acetic acid in 100 ml of THF at −10° C. with exclusion of oxygen. The mixture is stirred at 0° C. for 4 hours. Subsequently, ammonium chloride solution is added and the mixture is extracted with diethyl ether. The combined organic phases are washed with sodium chloride solution, dried over sodium sulphate and evaporated. 3.2 g (14.4 mmol, 92% yield) of the title compound are obtained.

reactant | [4-(tert-butoxycarbonyl)phenyl]acetic acid | 15.24 mmol, 3.6 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CC(=O)O | C13H16O4
reactant | oxygen | O=O | O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-(2-hydroxyethyl)benzoate | 14.4 mmol, 3.2 g, 92% yield | OCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H18O3
